US08609669B2
2-(4-fluorobenzyl)malononitrile
To a solution of malononitrile (3.15 mL, 50.0 mmol) in 50 mL of 95% EtOH, 4-fluorobenzaldehyde (5.28 mL, 50 mmol) was added and the mixture was stirred at room temperature overnight. The white solid precipitated out and this suspension was diluted with 25 mL of EtOH then treated with sodium borohydride (0.946 g, 25.00 mmol) in one portion. This mixture was stirred at ambient temperature for 2 hours until reaction was complete. Water and 1N HCl solution was added carefully to quench sodium borohydride. The precipitate was then filtered, washed with copious amount of water, air-dried to give 5.92 g of the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.28-7.43 (m, 2H) 7.06-7.17 (m, 2H) 3.90 (t, J=6.78 Hz, 1H) 3.27 (d, J=6.72 Hz, 2H). MS (ESI) m/z 173.1 (M−H)−.

reactant | malononitrile | 50.0 mmol, 3.15 mL | C(CC#N)#N | C3H2N2
reactant | 4-fluorobenzaldehyde | 50 mmol, 5.28 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium borohydride | 25.00 mmol, 0.946 g | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | Water | O | H2O
product | 2-(4-fluorobenzyl)malononitrile | 5.92 g | FC1=CC=C(CC(C#N)C#N)C=C1 | C10H7FN2
